US06417009B1
A mixture of N-methylphytanamide (4.0 g) and lithium aluminium hydride (pellets 95%, 2.0 g) in tetrahydrofuran (100 ml) was heated under reflux for two hours. The reaction mixture cooled, excess lithium aluminium hydride destroyed, and solid salts were filtered off. The crude product was dissolved in dichloromethane and washed with water, dried (MgSO4) and the solvent removed. The crude product was chromatographed on flash silica (1% aqueous ammonia, 10-20% methanol in dichloromethane ) to give pure N-methylphytanamine as a colourless liquid. Yield 2.08 g, 54%. 1H-n.m.r. (CDCl3) δ0.82-1.5(m, 39H, phyt), 2.439 (s, 3H, NCH3), 2.54 (m, 2H, CH2CH2NH).

reactant | N-methylphytanamide | 4.0 g | CNC(CC(C)CCCC(C)CCCC(C)CCCC(C)C)=O | C21H43NO
reactant | lithium aluminium hydride | 2.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-methylphytanamine | CNCCC(C)CCCC(C)CCCC(C)CCCC(C)C | C21H45N
